data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_47541_1,[C:1]1([C:3]([H:15])([H:16])[H:17])([H:9])[C:5]([N:4]([C:2]([H:12])([H:13])[H:14])[H:8])([N:6]([H:10])[H:11])[O:7]1>>[C:1]([C:3]([H:15])([H:16])[H:17])([C:5]([N:4]([C:2]([H:12])([H:13])[H:14])[H:8])=[O:7])([N:6]([H:10])[H:11])[H:9],45.92609750000847
MR_501023_0,[N:1]([C:2]([O:5][H:9])=[O:8])([N:3]([H:10])[H:11])/[N:6]=[N:7]/[N:4]([H:12])[H:13]>>[N:1](\[N:3]([H:10])[H:11])=[N:6]/[N:7]([C:2]([O:5][H:9])=[O:8])[N:4]([H:12])[H:13],40.44237500001387
MR_445629_0,[C:1](\[N:3](/[C:5](=[C:7](\[C:2]([N:4]([H:11])[H:13])([H:15])[H:16])[H:17])[O:8][H:9])[H:10])(=[N:6]/[H:14])[H:12]>>[C:1]1([N:6]([H:13])[H:14])([H:12])[N:3]([H:10])[C:5]([O:8][H:9])=[C:7]([H:17])[C:2]([H:15])([H:16])[N:4]1[H:11],50.87958249998636
MR_420554_2,[C:1]1([H:12])([H:13])[C:2]([N:4]([H:8])[H:9])=[C:3]([N:5]([H:10])[H:11])[C:6]([H:14])=[N:7]1>>[C:1](=[C:2]([C@@:3]1([N:5]([H:10])[H:11])[C:6]([H:14])[N:7]1)[N:4]([H:8])[H:9])([H:12])[H:13],60.624657499994186
MR_631827_0,[C:1]1([C:2]([H:12])([H:13])[H:14])([N:4]([H:9])[H:10])[N:3]([H:8])[O:6][C:5]([H:11])=[N:7]1>>[C:1](\[C:2]([H:12])([H:13])[H:14])([N:4]([H:9])[H:10])=[N:7]\[C:5]1([H:11])[N:3]([H:8])[O:6]1,55.62410999999244
MR_355551_1,[C:1]1([N:3]([H:9])[H:10])([H:8])[N:2]([H:7])[C:5]([H:12])=[C:4]([H:11])[O:6]1>>[C:1]1([N:3]([H:9])[H:10])([H:8])[C:4](/[C:5](=[N:2]\[H:7])[H:12])([H:11])[O:6]1,56.06022250003278
MR_251380_1,[C:1]1([C:2]([O:6][H:8])([H:9])[H:10])([O:5][H:7])[O:3][O:4]1>>[C:1]1([O:4][O:3][H:8])([O:5][H:7])[C:2]([H:9])([H:10])[O:6]1,42.94735499996719
MR_378250_1,[C:1]1([C:2]([H:12])([H:13])[H:14])([C:3]([H:15])([H:16])[H:17])/[C:4](=[N:8]\[H:9])[C:6]1([C:5](=[O:7])[H:10])[H:11]>>[C:1]1([C:2]([H:12])([H:13])[H:14])([C:3]([H:15])([H:16])[H:17])/[C:4](=[N:8]\[H:9])[C:6]([H:11])=[C:5]([H:10])[O:7]1,28.615254999983648
MR_310477_0,[C:1]([C:2]([H:11])([H:12])[H:13])([C:4]([C:3]([H:14])([H:15])[H:16])=[C:6]([H:17])[H:18])([N:5]([H:9])[H:10])[O:7][H:8]>>[C:1]1([C:2]([H:11])([H:12])[H:13])([N:5]([H:9])[H:10])[C:4]([C:3]([H:14])([H:15])[H:16])([O:7][H:8])[C:6]1([H:17])[H:18],51.272397500029
MR_200291_0,[C:1](\[C:2]([H:13])([H:14])[H:15])(=[C:5](\[C:3]([H:16])([H:17])[H:18])[C:6]([C:4]([H:19])([H:20])[H:21])([N:7]([H:11])[H:12])[O:8][H:9])[H:10]>>[C:1]([C:2]([H:13])([H:14])[H:15])(/[C:5]([C:3]([H:16])([H:17])[H:18])=[C:6](\[C:4]([H:19])([H:20])[H:21])[N:7]([H:11])[H:12])([O:8][H:9])[H:10],47.76530000000193
MR_665292_1,[C:1]([c:6]1[n:3]([H:12])[c:4](=[O:9])[n:2]([O:7][H:10])[c:5]1[O:8][H:11])([H:13])([H:14])[H:15]>>[C:1]([C@@:6]1(/[C:5](=[N:2]/[O:7][H:10])[O:8][H:11])[N:3]([H:12])[C:4]1=[O:9])([H:13])([H:14])[H:15],59.72482250001889
MR_646910_0,[C:1]([N:3]([C:5]([C:2]([H:18])([H:19])[H:20])=[C:4]([N:6]([H:12])[H:13])[N:7]([H:11])[H:14])[H:10])([C:8](=[O:9])[H:17])([H:15])[H:16]>>[C:1]1([H:15])([H:16])[N:3]([H:10])[C:5]1([C:2]([H:18])([H:19])[H:20])[C:4]([N:6]([H:12])[H:13])([N:7]([H:11])[H:14])[C:8](=[O:9])[H:17],72.79376500001703
MR_248648_0,[C:1]1([N:2]([H:6])[H:7])([H:5])[O:3][O:4]1>>[C:1](=[N:2]/[H:6])(\[O:3][O:4][H:7])[H:5],22.2599350000138
MR_253465_1,[C:1](/[C:5]([C:4]([C:6]([C:2]([H:17])([H:18])[H:21])[C:3]([H:19])([H:20])[H:22])[N:8]([H:12])[H:13])=[N:9]\[N:7]([H:10])[H:11])([H:14])([H:15])[H:16]>>[C:1]([C:5]1=[C:4]([N:8]([H:12])[H:13])[C:6]([C:2]([H:17])([H:18])[H:21])([C:3]([H:19])([H:20])[H:22])[N:9]1[N:7]([H:10])[H:11])([H:14])([H:15])[H:16],39.03991250002349
MR_396125_0,[C:1]([N:2]([C:4]1([C:6](=[C:8]([H:18])[H:19])[H:12])[C:3](=[O:9])[C:7]1([H:16])[H:17])[N:5]([H:10])[H:11])([H:13])([H:14])[H:15]>>[C:1]([N:2]([C:4]([C:3]([C:6](=[C:8]([H:18])[H:19])[H:12])=[O:9])=[C:7]([H:16])[H:17])[N:5]([H:10])[H:11])([H:13])([H:14])[H:15],58.82247750001426
MR_206680_1,[C:1](/[C:3]([N:2]([C:6](=[C:7]([H:16])[H:17])[H:12])[H:8])=[C:5](/[N:4]([H:9])[H:10])[H:11])([H:13])([H:14])[H:15]>>[C:1](/[C:3](=[N:2]\[H:8])[C:5]([N:4]([H:9])[H:10])([C:6](=[C:7]([H:16])[H:17])[H:12])[H:11])([H:13])([H:14])[H:15],71.6799524999756
MR_179172_0,[C@@:1]1([N:5]([H:9])[H:10])([C:6](=[O:7])[H:11])[C@:2]([C:4]([H:14])([H:15])[H:16])([H:8])[C:3]1([H:12])[H:13]>>[C:1]([C@:2]([C:4]([H:14])([H:15])[H:16])([C:6](=[O:7])[H:11])[H:8])(=[C:3]([H:12])[H:13])[N:5]([H:9])[H:10],60.53680750000197
MR_63109_1,[C:1]([C:2](/[C:4](=[C:5](/[N:3]([H:8])[H:9])[H:11])[H:10])=[N:6]/[H:7])([H:12])([H:13])[H:14]>>[C:1](/[C:2]([C:4](/[C:5](=[N:3]/[H:8])[H:11])([H:9])[H:10])=[N:6]/[H:7])([H:12])([H:13])[H:14],64.48754749997903
MR_619803_0,[C:1]([C:2]([O:7][C:3]([H:14])([H:15])[H:16])([H:12])[H:13])([C:4]([H:17])([H:18])[H:19])([N:5]([H:10])[H:11])[O:6][O:8][H:9]>>[C:1]([C:2]([O:6][O:8][H:9])([H:12])[H:13])([C:4]([H:17])([H:18])[H:19])([N:5]([H:10])[H:11])[O:7][C:3]([H:14])([H:15])[H:16],59.800750000005536
MR_497697_0,[C:1]([C:2]([H:15])([H:16])[H:17])([C:3]([H:18])([H:19])[H:20])=[N:7][C:5]1([H:13])[C:6](/[C:4](=[N:8]/[H:10])[H:12])([H:14])[N:9]1[H:11]>>[C:1]([C:2]([H:15])([H:16])[H:17])([C:3]([H:18])([H:19])[H:20])(/[C:4](=[N:8]/[H:10])[H:12])/[N:7]=[C:5]([C:6](=[N:9]/[H:11])\[H:14])/[H:13],60.64473749997916
